US04859662
1,2,3,9-Tetrahydro-3-[(5-methyl-1H-imidazol-4-yl)methyl]-9-methyl-4H-carbazol-4-one hydrochloride monohydrate
A suspension of 1,2,3,9-tetrahydro-3-[(5-methyl-1H-imidazol-4-yl)methyl]-9-methyl-4H-carbazol-4-one (20 g) in IMS (200 ml) was heated to boiling and 2N hydrochloric acid (50 ml) was added. The resulting solution was allowed to cool to 20°, the resultant suspension was stirred for 1 h and then cooled at 4° for 2 h. The product was filtered off and dried in vacuo at 55° to yield the title compound (20.8 g), m.p. 290° (decomp.).

reactant | 1,2,3,9-tetrahydro-3-[(5-methyl-1H-imidazol-4-yl)methyl]-9-methyl-4H-carbazol-4-one | 20 g | CC1=C(N=CN1)CC1CCC=2N(C3=CC=CC=C3C2C1=O)C | C18H19N3O
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
product | 1,2,3,9-Tetrahydro-3-[(5-methyl-1H-imidazol-4-yl)methyl]-9-methyl-4H-carbazol-4-one hydrochloride monohydrate | 20.8 g | O.Cl.CC1=C(N=CN1)CC1CCC=2N(C3=CC=CC=C3C2C1=O)C | InChI=1S/C18H19N3O.ClH.H2O/c1-11-14(20-10-19-11)9-12-7-8-16-17(18(12)22)13-5-3-4-6-15(13)21(16)2;;/h3-6,10,12H,7-9H2,1-2H3,(H,19,20);1H;1H2
